US06841652B2
Preparation of [2,4-bis(4-aminophenoxy)phenyl]diphenylphosphine oxide (4-APPO)
Into a 500 mL three neck round bottom flask equipped with a mechanical stirrer, thermometer and a Dean-Stark trap equipped with a drying tube was placed 2,4-difluorophenyldiphenylphosphine oxide (12.00 g, 0.0382 mole), 4-aminophenol (8.6673 g, 0.0794 mol), potassium carbonate (13.1682 g, 0.0953 mol), NMP (85 mL) and toluene (25 mL). The mixture was heated to 135° C. while removing water via azeotropic distillation. After 16 hours, the toluene was removed from the reaction and the resulting solution was heated at 165° C. for 4 hours. The reaction mixture was cooled to room temperature and then poured into 1 L of 5% acetic acid (aq) with vigorous stirring. A tan solid formed after stirring for 45 minutes. The crude tan solid was collected via filtration, washed with excess water, and dried in an oven at 110° C. to give 16.76 g (89% crude yield). The solid was recrystallized from a dimethylacetamide/water solution (3:1) and light tan needles were obtained. The solid exhibited a melting point of 271.5-274.7° C. as determined by DSC at a heating rate of 10° C./min. Mass spectroscopic analysis: M+492 [C30H25N2O3P+]

reactant | 2,4-difluorophenyldiphenylphosphine oxide | 0.0382 mole, 12.00 g | FC1=C(C=CC(=C1)F)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H13F2OP
reactant | 4-aminophenol | 0.0794 mol, 8.6673 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium carbonate | 0.0953 mol, 13.1682 g | C([O-])([O-])=O.[K+].[K+]
reactant | NMP | 85 mL | CN1CCCC1=O | C5H9NO
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | [2,4-bis(4-aminophenoxy)phenyl]diphenylphosphine oxide | NC1=CC=C(OC2=C(C=CC(=C2)OC2=CC=C(C=C2)N)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C=C1 | C30H25N2O3P
